US07344702B2
A mixture of 5-hydroxy-2,2-dimethyl-7-nitro-2H-chromene-6-carbaldehyde (2.34 g, 10 mmol), K2CO3 (4.12 g, 29.8 mmol) and MeI (2.13 g, 0.94 mL, 15 mmol in Me2CO (40 mL) is refluxed for 4 h and stirred at room temperature overnight. The mixture is concentrated, treated with water (15 mL) and extracted with dichloromethane. The combined organic layers are washed with water, dried over Na2SO4, and the solvent is removed in vacuo to afford an oil, which is chromatographed with 3% Me2CO in hexane to afford 5-methoxy-2,2-dimethyl-7-nitro-2H-chromene-6-carbaldehyde.

reactant | 5-hydroxy-2,2-dimethyl-7-nitro-2H-chromene-6-carbaldehyde | 10 mmol, 2.34 g | OC1=C2C=CC(OC2=CC(=C1C=O)[N+](=O)[O-])(C)C | C12H11NO5
reactant | K2CO3 | 29.8 mmol, 4.12 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | CI | CH3I
product | 5-methoxy-2,2-dimethyl-7-nitro-2H-chromene-6-carbaldehyde | COC1=C2C=CC(OC2=CC(=C1C=O)[N+](=O)[O-])(C)C | C13H13NO5
